US08017611B2
Potassium hydroxide (0.773 g) was added to a cold solution of methyl 2-amino-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyridine-3-carboxylate (2.172 g) in methanol (50 ml) and water (5 ml). The resulting mixture was stirred at room temperature during 48 hours. A 2N aqueous hydrochloric acid solution (6.89 ml) was added. The mixture was evaporated to dryness, dried, diluted with water (50 ml) and purified on OASIS resine (ion exchange resin Oasis, HLB 30 μM, Waters) (150 ml). The salts were eluted with water and the product was eluted with 50% Methanol/water. The solvents were evaporated to dryness. The residue was dried at 50° C. to give 2-amino-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyridine-3-carboxylic acid (1.600 g). NMR Spectrum: (DMSO-d6) 2.02-2.13 (m, 4H), 2.27-2.38 (m, 2H), 2.35 (s, 3H), 2.97-3.06 (m, 2H), 4.13-4.22 (m, 1H), 7.21 (bs, 2H), 7.80 (s, 1H), 8.18 (s, 1H), 8.19 (d, 1H), 8.39 (d, 1H); Mass spectrum: M+H+ 302

reactant | Potassium hydroxide | 0.773 g | [OH-].[K+]
reactant | methyl 2-amino-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyridine-3-carboxylate | 2.172 g | NC1=NC=C(C=C1C(=O)OC)C=1C=NN(C1)C1CCN(CC1)C | C16H21N5O2
reactant | hydrochloric acid | 2N, 6.89 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 2-amino-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyridine-3-carboxylic acid | 1.600 g | NC1=NC=C(C=C1C(=O)O)C=1C=NN(C1)C1CCN(CC1)C | C15H19N5O2
